US07906652B2
Step 3: Ethyl 3-{1-[1-(diphenylmethyl)azetidin-3-yl]-2-fluoro-2-methylpropyl}-5-fluorobenzoate
A mixture of 7.5 g (17.15 mmol) of 3-{1-[1-(diphenylmethyl)azetidin-3-yl]-2-fluoro-2-methylpropyl}-5-fluorobenzoic acid, 25 mL of 4N HCl in dioxane, and 200 mL of EtOH was refluxed. After 10 h, it was concentrated to remove solvents. To the residue was added 150 mL of CH2Cl2 and 30 mL of H2O and pH was adjusted to 7-8 with aq NaHCO3, then extracted with CH2Cl2. The combined organic layer was dried over Na2SO4 and concentrated. The residue was purified by silica gel chromatography with hexanes/ethyl acetate to afford the title compound as an white solid; 1H-NMR(CDCl3) δ 1.25(d, 3H, J=22 Hz), 1.30(d, 3H, J=22 Hz), 1.42 (t, 3H, J=7.1 Hz), 2.35 (t, 1H, J=8 Hz), 2.89 (t, 1H, J=8 Hz), 2.97 (m, 1H), 3.12 (m, 1H), 3.24 (m, 1H), 3.68 (t, 1H, J=6 Hz), 4.27 (s, 1H), 4.38 (q, 2H, J1=14, J2=7 Hz), 7.103-7.66 (m, 13H); Mass Spectrum: m/e=464 (M+1).

reactant | 3-{1-[1-(diphenylmethyl)azetidin-3-yl]-2-fluoro-2-methylpropyl}-5-fluorobenzoic acid | 17.15 mmol, 7.5 g | C1(=CC=CC=C1)C(N1CC(C1)C(C(C)(C)F)C=1C=C(C(=O)O)C=C(C1)F)C1=CC=CC=C1 | C27H27F2NO2
reactant | HCl | 4N, 25 mL | Cl | ClH
reactant | EtOH | 200 mL | CCO | C2H6O
solvent | dioxane | O1CCOCC1 | C4H8O2
product | Ethyl 3-{1-[1-(diphenylmethyl)azetidin-3-yl]-2-fluoro-2-methylpropyl}-5-fluorobenzoate | C1(=CC=CC=C1)C(N1CC(C1)C(C(C)(C)F)C=1C=C(C(=O)OCC)C=C(C1)F)C1=CC=CC=C1 | C29H31F2NO2
